US09023883B2
To a solution of 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carboxylic acid (28 g, 86.93 mmol, 1.00 equiv) in anhydrous THF (300 mL) maintained under nitrogen at 5° C. was added a 1M solution of BH3 in THF (300 mL) dropwise with stirring. The reaction was stirred overnight at room temperature and then quenched by the addition of 300 mL of saturated NH4Cl solution. The resulting mixture was extracted with 3×1000 mL of dichloromethane. The combined organic layers was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with ethyl acetate/petroleum ether (1:1) to give 12.67 g (47%) of (3-iodo-1-(oxan-2-yl)-1H-pyrazol-4-yl)methanol as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.73 (s, 1H), 5.37-5.34 (m, 1H), 4.92 (s, 1H), 4.20 (d, J=3.6 Hz, 2H), 3.89-3.88 (m, 1H), 3.65-3.57 (m, 1H), 2.09-2.00 (m, 1H), 1.99-1.90 (m, 2H), 1.69-1.61 (m, 1H), 1.49-1.46 (m, 2H) ppm. LCMS (method A, ESI): RT=1.16 min, m/z=309.0 [M+H]+.

reactant | 3-iodo-1-(oxan-2-yl)-1H-pyrazole-4-carboxylic acid | 86.93 mmol, 28 g, 1.00 equiv | IC1=NN(C=C1C(=O)O)C1OCCCC1 | C9H11IN2O3
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | (3-iodo-1-(oxan-2-yl)-1H-pyrazol-4-yl)methanol | 12.67 g, 47% | IC1=NN(C=C1CO)C1OCCCC1 | C9H13IN2O2
